US09035053B2
A mixture of tert-butyl N-[[4-[5-[3-[bis(tert-butoxycarbonyl)amino]-6-bromo-pyrazin-2-yl]isoxazol-3-yl]phenyl]methyl]-N-tetrahydropyran-4-yl-carbamate (110.0 g, 151 mmol), K2CO3 (41.6 g, 301 mmol), and 2-methyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridyl]propanenitrile (41.0 g, 151 mmol) in toluene (770 mL) and water (220 mL) is stirred and degassed with N2 for 30 min. at 20° C. The catalyst Pd(dtbpf)Cl2 (1.96 g, 3.01 mmol) is added and the mixture is degassed for an additional 10 min. The mixture is heated at 70° C. until the reaction is complete. The mixture is cooled to ambient temperature, diluted with water (220 mL), and filtered through a bed of Celite. The organic phase is concentrated to remove most of the solvent. The concentrate is diluted with i-PrOH (550 mL). The resultant suspension is stirred for at least 1 h and then the solid is collected by filtration to afford a tan powder. The solid is dissolved in toluene (990 mL) and stirred with Biotage MP-TMT resin (18.6 g) for 2 h at ambient temperature. The resin is removed by filtration. The filtrate is concentrated then diluted with i-PrOH (550 mL) and then re-concentrated. Add i-PrOH (550 mL) and stir for 1 h at ambient temperature. Cool the suspension to 5° C. and collect the solid by filtration then dry to afford tert-butyl N-[[4-[5-[3-[bis(tert-butoxycarbonyl)amino]-6-[2-(1-cyano-1-methyl-ethyl)-4-pyridyl]pyrazin-2-yl]isoxazol-3-yl]phenyl]methyl]-N-tetrahydropyran-4-yl-carbamate (Compound I-1) (81.9 g; 68%, yield, 98.7 area % purity by HPLC) as a cream-colored powder.

reactant | tert-butyl N-[[4-[5-[3-[bis(tert-butoxycarbonyl)amino]-6-bromo-pyrazin-2-yl]isoxazol-3-yl]phenyl]methyl]-N-tetrahydropyran-4-yl-carbamate | 151 mmol, 110.0 g | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)Br)C1=CC(=NO1)C1=CC=C(C=C1)CN(C(OC(C)(C)C)=O)C1CCOCC1)C(=O)OC(C)(C)C | C34H44BrN5O8
reactant | K2CO3 | 301 mmol, 41.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridyl]propanenitrile | 151 mmol, 41.0 g | CC(C#N)(C)C1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H21BN2O2
solvent | toluene | 770 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 220 mL | O | H2O
solvent | toluene | 990 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl N-[[4-[5-[3-[bis(tert-butoxycarbonyl)amino]-6-[2-(1-cyano-1-methyl-ethyl)-4-pyridyl]pyrazin-2-yl]isoxazol-3-yl]phenyl]methyl]-N-tetrahydropyran-4-yl-carbamate | 81.9 g, 68% | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)C1=CC(=NC=C1)C(C)(C)C#N)C1=CC(=NO1)C1=CC=C(C=C1)CN(C(OC(C)(C)C)=O)C1CCOCC1)C(=O)OC(C)(C)C | C43H53N7O8
